US04845219
3-Mesyloxypropyl 2-methoxy-3-(3,7,11,15-tetramethylhexadecyloxy)-propyl sulfone
To 100 ml of ethyl acetate are added 4.5 g of 3-[(2-methoxy-3-(3,7,11,15-tetramethylhexadecyloxy)propyl)sulfonyl]propanol and 1.54 ml of triethylamine, to which is further added 0.85 ml of methanesulfonyl chloride dropwise at room temperature with stirring. After being stirred at room temperature for 3 hours, the reaction mixture is washed with water, dilute hydrochloric acid, an aquoues sodium bicarbonate and water. After drying, the solvent is distilled off to leave 5.16 g of the captioned compound as an oily substance.

reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | 3-[(2-methoxy-3-(3,7,11,15-tetramethylhexadecyloxy)propyl)sulfonyl]propanol | 4.5 g | COC(CS(=O)(=O)CCCO)COCCC(CCCC(CCCC(CCCC(C)C)C)C)C | C27H56O5S
reactant | methanesulfonyl chloride | 0.85 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | triethylamine | 1.54 ml | C(C)N(CC)CC | C6H15N
product | 3-Mesyloxypropyl 2-methoxy-3-(3,7,11,15-tetramethylhexadecyloxy)-propyl sulfone | 5.16 g | COC(CS(=O)(=O)CCCOS(=O)(=O)C)COCCC(CCCC(CCCC(CCCC(C)C)C)C)C | C28H58O7S2
